* C:\Users\jtsang451\Documents\TeamPhantom\PowerDistribution\HV_Board_Rev3\HV_Board_DC_Converter\LTSpice_Testing\lt3001\lt3001-12V-5V.asc
V1 IN 0 12
L1 IN N002 150µ Rser=500m Cpar=1p
L2 0 N001 6µ Rser=20m Cpar=0
R1 N002 N004 255k
D1 N001 OUT SK64L-TP
Rload OUT 0 25
XU1 IN 0 N004 N002 IN LT3001
C1 OUT 0 20µ x2 Rser=0.003
C2 IN 0 10µ
.model D D
.lib C:\Users\jtsang451\Documents\LTspiceXVII\lib\cmp\standard.dio
K1 L1 L2 .999
.tran 10m startup
* 750313976\nwurth\nNps = 4:1\nLpri = 40µH
.model SK64L-TP d(bv = 45 ibv = 5.5u cjo =400p vfwd = 0.2)
.lib LT3001.sub
.backanno
.end
